US09145392B2
Step 6: Benzyl 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-oxoethyl)-1H-imidazol-2-yl)piperidine-1-carboxylate
The reaction mixture of benzyl 4-(1-((1,3-dioxolan-2-yl)methyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate (1450.00 mg; 2.72 mmol; 1.00 eq.) and toluene-4-sulfonic acid monohydrate (5169.79 mg; 27.18 mmol; 10.00 eq.) in 30 ml of acetone and 2.5 ml of water was stirred at 50° C. for one week. LC-MS showed some a mixture of the desired product, ˜30% of starting material and some by products. The reaction mixture was concentrated and added 50 ml water, extracted with EA. The combined organic layers were washed with brine, dried and concentrated. The residue was subjected to SNAP column (100 g), eluted with 0-100% EA in hexane, then eluted with 10% methanol in DCM to afford the tile compound as yellow oil (480 mg, yield 36%) with a recovery of some starting material.

reactant | benzyl 4-(1-((1,3-dioxolan-2-yl)methyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate | 2.72 mmol, 1450.00 mg, 1.00 eq. | O1C(OCC1)CN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C27H27F4N3O4
reactant | toluene-4-sulfonic acid monohydrate | 27.18 mmol, 5169.79 mg, 10.00 eq. | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 2.5 ml | O | H2O
product | Benzyl 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-oxoethyl)-1H-imidazol-2-yl)piperidine-1-carboxylate | FC1=C(C=C(C=C1)C=1N=C(N(C1)CC=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(F)(F)F | C25H23F4N3O3
